US05529766
b) Methylene bis(10-oxodecanoate)
Methylene bis(10,11-dihydroxyundecanoate) (2.24 g, 5 mmol) was dissolved in 150 ml tetrahydrofuran. Sodium metaperiodate (2.06 g, 10 mmol) was dissolved in 150 ml water and added dropwise to the tetrahydrofuran solution. TLC indicated full consumption of the diol after 60 minutes, whereupon sodium chloride was added to the reaction mixture until the two phases separated. The water phase was extracted with diethyl ether (3×50 ml). The combined organic phases was dried with magnesium sulphate and evaporated to give the title product as an oil, 1.43 g (74%). 13C NMR (45 MHz) CDCl3 : δ 21.9-43.9 (16×CH2), 79.1 (O--CH2 --O), 173.0 (2×C=O), 202.6 (2×CHO).

reactant | Methylene bis(10,11-dihydroxyundecanoate) | 5 mmol, 2.24 g | OC(CCCCCCCCC(=O)OCOC(CCCCCCCCC(CO)O)=O)CO | C23H44O8
reactant | Sodium metaperiodate | 10 mmol, 2.06 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | Methylene bis(10-oxodecanoate) | O=CCCCCCCCCC(=O)OCOC(CCCCCCCCC=O)=O | C21H36O6
